US06326386B1
2-(5-Bromo-3-methoxycarbonyl-phenoxy)-acetic acid tert-butyl ester
To a stirred solution of 3-bromo-5-hydroxybenzoic acid methyl ester (10.2 g) and tert-butyl bromoacetate (9.7 ml) in anhydrous DMF was added sodium hydride (60% dispersion in mineral oil, 2.69). After 30 min water (10 ml) aws added. The reaction mixture was partitioned between ethyl acetate and water. The aqueous phase was removed and the organic phase washed with further water, 1M sodium hydroxide solution and dried with brine and over sodium sulphate. Concentration under reduced pressure gave the title compound as dark yellow gum (12.8 g).

reactant | 3-bromo-5-hydroxybenzoic acid methyl ester | 10.2 g | COC(C1=CC(=CC(=C1)O)Br)=O | C8H7BrO3
reactant | tert-butyl bromoacetate | 9.7 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | sodium hydride | [H-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(5-Bromo-3-methoxycarbonyl-phenoxy)-acetic acid tert-butyl ester | 12.8 g | C(C)(C)(C)OC(COC1=CC(=CC(=C1)Br)C(=O)OC)=O | C14H17BrO5
